US07091353B2
2-azido-N-[2-(2,6-dioxo(3-piperidyl))-1-oxoisoindolin-4-yl]acetamide I-45
To a stirred suspension of N-[2-(2,6-dioxo(3-piperidyl))-1-oxoisoindolin-4-yl]-2-chloroacetamide (4.64 g, 13.8 mmol) in acetone (60 ml) was added sodium azide (1.35 g, 20.7 mmol). The mixture was heated to reflux for 18 hours. After 18 hours, to the reaction mixture was added NaI (2.05 g, 13.8 mmol) and additional sodium azide (0.90 g, 13.8 mmol). The mixture was heated at reflux for an additional 18 hours. The solvent was evaporated in vacuo to give an off-white solid which was slurried in a mixture of dichloromethane (50 ml) and H2O (50 ml). This slurry was filtered to give 4.39 g (93%) of product: 1H NMR (DMSO-d6) δ 11.50–9.52 (bs, 2H), 7.87–7.84 (m, 1H), 7.59–7.50 (m, 2H), 5.17 (dd, J=5.0 and 13.1 Hz, 1H), 4.44 (d, J=17.6 Hz, 1H), 4.34 (d, J=17.6 Hz, 1H), 4.13 (s, 2H), 3.00–2.86 (m, 1H), 2.65–2.59 (m, 1H), 2.44–2.29 (m, 1H), 2.07–2.02 (m, 1H).

reactant | N-[2-(2,6-dioxo(3-piperidyl))-1-oxoisoindolin-4-yl]-2-chloroacetamide | 13.8 mmol, 4.64 g | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1)NC(CCl)=O)=O)=O | C15H14ClN3O4
reactant | sodium azide | 20.7 mmol, 1.35 g | [N-]=[N+]=[N-].[Na+]
reactant | NaI | 13.8 mmol, 2.05 g | [Na+].[I-]
reactant | sodium azide | 13.8 mmol, 0.90 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | H2O | 50 ml | O | H2O
product | 2-azido-N-[2-(2,6-dioxo(3-piperidyl))-1-oxoisoindolin-4-yl]acetamide | 4.39 g, 93% | N(=[N+]=[N-])CC(=O)NC1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O | C15H14N6O4
